US07432262B2
(R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione
0.11 g potassium-tert-butoxide are added to a solution of 0.52 g of (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-6-(2-phenylsulphonyl-ethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione in 5 ml of tetrahydrofuran. The solution is stirred for 10 min at ambient temperature and then diluted with water. It is extracted three times with ethyl acetate, the combined organic phases are dried over sodium sulphate, and the solvent is then removed. The residue is purified by chromatography on silica gel (cyclohexane/ethyl acetate).

reactant | potassium-tert-butoxide | 0.11 g | CC(C)([O-])C.[K+]
reactant | (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-6-(2-phenylsulphonyl-ethyl)-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | 0.52 g | C(C#CC)N1C(=NC2=C1C(N(N(C2=O)C)CCS(=O)(=O)C2=CC=CC=C2)=O)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C28H36N6O6S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (R)-1-(but-2-ynyl)-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-5-methyl-5,6-dihydro-1H-imidazo[4,5-d]pyridazine-4,7-dione | C(C#CC)N1C(=NC2=C1C(NN(C2=O)C)=O)N2C[C@@H](CCC2)NC(=O)OC(C)(C)C | C20H28N6O4
